US07553973B2
Step 4: 4-(2-Methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carbaldehyde
To a solution of 7-(hydroxymethyl)-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one (0.387 g, 1.42 mmol) in CH2Cl2 (7 ml) was added MnO2 (1.85 g, 21.2 mmol) and stirred at rt for 4 h. A second portion of MnO2 (1.85 g, 21.2 mmol) was added and 3 h later the reaction mixture was filtered on celite, evaporated to dryness and purified by trituration in CH2Cl2-MeOH (9:1) to give the title compound. 1H NMR (400 MHz, acetone-d6): δ 10.12 (s, 1H), 8.45 (m, 1H), 8.31 (s, 1H), 7.95 (s, 1H), 7.85 (m, 1H), 6.9 (s, 1H), 2.80 (s, 3H).

reactant | 7-(hydroxymethyl)-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one | 1.42 mmol, 0.387 g | OCC1=CC=C2C(=CC(OC2=C1)=O)C=1N=C(SC1)C | C14H11NO3S
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 21.2 mmol, 1.85 g | O=[Mn]=O
catalyst | MnO2 | 21.2 mmol, 1.85 g | O=[Mn]=O
product | 4-(2-Methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carbaldehyde | CC=1SC=C(N1)C1=CC(OC2=CC(=CC=C12)C=O)=O | C14H9NO3S
